.subckt nand2 in1 in2 in3 out VDD GND

X1 out in1 N001 N001 sky130_fd_pr__nfet_01v8 l={L} w={3*W}
X2 VDD in2 out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}
X3 VDD in1 out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}
X4 N001 in2 N002 N002 sky130_fd_pr__nfet_01v8 l={L} w={3*W}
X5 N002 in3 GND GND sky130_fd_pr__nfet_01v8 l={L} w={3*W}
X6 VDD in3 out VDD sky130_fd_pr__pfet_01v8 l={L} w={2*W}

.ends nand2
